US05849921
1-(3,4-Dichlorophenyl)-1-(5-thiazolyl)methanol
2-Bromothiazole (5 g) in dry diethyl ether (20 ml) was added dropwise to a stirred solution of n-butyllithium (1.6M in hexanes, 21 ml) in diethyl ether (20 ml) at -70° C. under an atmosphere of dry nitrogen. After 30 minutes, trimethylsilylchloride (3.9 ml) was added and the mixture was allowed to warm to 0° C. The mixture was then cooled to -70° C. and further n-butyllithium (21 ml) was added. The mixture was warmed to 0° C. and after 30 minutes was cooled again to -70° C. and 3,4-dichlorobenzaldehyde (5.8 g) in diethyl ether (40 ml) was added. The mixture was then allowed to warm to room temperature and after 30 minutes saturated aqueous sodium hydrogen carbonate was added. The mixture was extracted with dichloromethane and the material thus obtained was purified by chromatography on silica gel to give the title compound. The hydrochloride salt was prepared. M.p. 167°-170° C.

reactant | 2-Bromothiazole | 5 g | BrC=1SC=CN1 | C3H2BrNS
reactant | n-butyllithium | 1.6M, 21 ml | C(CCC)[Li]
reactant | trimethylsilylchloride | 3.9 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | n-butyllithium | 21 ml | C(CCC)[Li]
reactant | 3,4-dichlorobenzaldehyde | 5.8 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 1-(3,4-Dichlorophenyl)-1-(5-thiazolyl)methanol | ClC=1C=C(C=CC1Cl)C(O)C1=CN=CS1 | C10H7Cl2NOS
